US07893056B2
To a solution of racemic N,N-dimethyl-3-(phenylmethyl)-3-azabicyclo[3.1.0]hexan-1-amine (0.5800 g, 2.681 mmol) in MeOH (13 mL) was added 1 N aq. HCl (5.4 mL, 5.4 mmol) and 10% Pd/C (50% water, 120 mg). The mixture was hydrogenated under balloon pressure overnight, and then filtered. The solution was concentrated in vacuo and azeotroped with MeOH (4×50 mL) to give crude, racemic N,N-dimethyl-3-azabicyclo[3.1.0]hexan-1-amine dihydrochloride (0.5453 g, >100% crude yield) as a light yellow foam. LCMS: (M+H)+: 127.2.

reactant | racemic N,N-dimethyl-3-(phenylmethyl)-3-azabicyclo[3.1.0]hexan-1-amine | 2.681 mmol, 0.5800 g | CN(C12CN(CC2C1)CC1=CC=CC=C1)C | C14H20N2
reactant | HCl | 5.4 mmol, 1 N, 5.4 mL | Cl | ClH
solvent | MeOH | 13 mL | CO | CH4O
catalyst | Pd/C | 120 mg | [Pd] | Pd
product | racemic N,N-dimethyl-3-azabicyclo[3.1.0]hexan-1-amine dihydrochloride | 0.5453 g | Cl.Cl.CN(C12CNCC2C1)C | InChI=1S/C7H14N2.2ClH/c1-9(2)7-3-6(7)4-8-5-7;;/h6,8H,3-5H2,1-2H3;2*1H
